US06166028
(4-Aminomethyl-2-trifluoromethyl-phenyl)-dimethyl-amine
A solution of 4-dimethylamino-3-trifluoromethylbenzonitrile (0.35 g) in tetrahydrofuran (2 mL) is slowly added to a suspension of lithium aluminum hydride (0.1 g) in tetrahydrofuran (2 mL) at 0° C. and stirred under an atmosphere of argon for 2 hours. While at 0° C. water (0.1 mL) is slowly added followed by 5% sodium hydroxide (0.1 mL) and water (0.3 mL). The resulting gray solid is filtered and washed with tetrahydrofuran. The filtrates are collected and concentrated under reduced pressure and the resulting oil is chromatographed over silica gel (15% methanol in methylene chloride is used as the eluant) to provide the desired product as a pale orange oil (0.164 g).

reactant | 4-dimethylamino-3-trifluoromethylbenzonitrile | 0.35 g | CN(C1=C(C=C(C#N)C=C1)C(F)(F)F)C | C10H9F3N2
reactant | lithium aluminum hydride | 0.1 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 0.1 mL | O | H2O
reactant | sodium hydroxide | 0.1 mL | [OH-].[Na+]
reactant | water | 0.3 mL | O | H2O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | (4-Aminomethyl-2-trifluoromethyl-phenyl)-dimethyl-amine | 0.164 g | NCC1=CC(=C(C=C1)N(C)C)C(F)(F)F | C10H13F3N2
